2142-10-03 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - pt increasingly delirious throughout the shift, pt
s drug use hx
   unclear, admits to cocaine, heroin, pcp, [**Name10 (NameIs) 8763**], and etoh, though tox
   screen neg.
   - given several doses of ativan, methadone, haldol, dilaudid, and
   valium, placed in bilat soft limb restraints, four side rails up,
   reorienting constantly -> still agitated and delusional
   - given total of 1.5 LR fluid boluses, wbut still tachy in 140-150s.
   - spiked a fever of 103 this AM, got 1g Tylenol
   Allergies:
   Magnesium
   Anaphylaxis; Ra
   Latex
   Anaphylaxis;
   Salicylate
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2142-10-2**] 08:00 PM
   Cefipime - [**2142-10-3**] 06:38 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2142-10-3**] 04:00 AM
   Hydromorphone (Dilaudid) - [**2142-10-3**] 04:00 AM
   Diazepam (Valium) - [**2142-10-3**] 05:15 AM
   Haloperidol (Haldol) - [**2142-10-3**] 06:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-10-3**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 163 (114 - 163) bpm
   BP: 97/57(90) {90/32(39) - 107/86(90)} mmHg
   RR: 28 (19 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 52.9 kg (admission): 50.9 kg
    CVP: 9 (3 - 14)mmHg
   Total In:
                                                                  8,871 mL
                                                                  1,172 mL
   PO:
   TF:
   IVF:
                                                                  1,871 mL
                                                                  1,172 mL
   Blood products:
   Total out:
                                                                  4,910 mL
                                                                  1,840 mL
   Urine:
                                                                  1,910 mL
                                                                  1,840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,961 mL
                                                                   -669 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.27/42/28/18/-8
   Physical Examination
   General: agitated, combative, hallucinating
   Neck: JVP not elevated
   Lungs: diffuse wheezes
   CV: regular, tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: foley in place draining clear yellow urine
   Ext: left hand with bandage in place with serosanguinous drainage, left
   knee swollen and warm, no obvious erythema, pain with any movement or
   exam, scattered scabs over the ventral surface of her feet, right knee
   and ankle joints with full range of motion, no edema, 2+ pulses
   Labs / Radiology
   160 K/uL
   10.3 g/dL
   91 mg/dL
   0.6 mg/dL
   18 mEq/L
   3.1 mEq/L
   9 mg/dL
   113 mEq/L
   138 mEq/L
   31.6 %
   7.8 K/uL
        [image002.jpg]
                             [**2142-10-2**]  05:52 PM
                             [**2142-10-2**]  11:27 PM
                             [**2142-10-3**]  12:45 AM
                             [**2142-10-3**]  03:50 AM
   WBC
   7.4
   11.1
   7.8
   Hct
   29.7
   31.4
   31.6
   Plt
   147
   176
   160
   Cr
   0.6
   0.6
   TCO2
   20
   Glucose
   105
   91
   Other labs:
   Ca++:7.3 mg/dL (corrected Ca 8.74), Mg++:1.3 mg/dL, PO4:2.1 mg/dL
   WBC 15.4 (bands 21 -> 7.4 -> 11.1 -> 7.8 (bands 3)
   Lactate 3.2 -> 0.4 -> 1.4 -> 2.1 -> 1.9
   ESR 40  CRP >300
   Cortisol 11.3
   Hep panel PND
   Theophyline <0.8
   UA: mod bact, WBC 0-2, tr blood, 0-2 RBC
   Joint fluid: WBC [**Numeric Identifier 8754**] RBC 7950 poly 82 lymph 6 mono 7
   ALT 33 -> 24 -> 24
   AST 148 -> 96 -> 84
   Other liver tests wnl, alb 2.2
   PT 19.1 PTT 44.0 INR 1.7
   Fibrinogen 382 FDP 40-80 D-dimer 6875
   Venous gases: 7pm        7.27 38 68 18
                            8:30pm   7.23 43 47 19
                            12:45am 7.27 42 28 20
                            4:30am   7.34 36 33 20
   Microbiology
   [**2142-10-2**] Joint fluid: GPC's in pairs and clusters
   [**2142-10-2**] Blood culture 1 of 2: GPCs in chains -> group A strep
   [**2142-10-2**] L thumb abscess swab: GPC's in pairs and clusters
   CXR(my read) : line in correct place now, no abnormalities
   Knee x ray: substantial soft tissue swelling in suprapatellar space
   Hand xray (my read): no acute fx or abnormalities
   Assessment and Plan
   Ms [**Known lastname 980**] is a 25 yo female with PMH of severe persistent asthma and
   IV drug use, s/p bilateral knee replacement for osteonecrosis
   presenting with sepsis [**2-26**] thumb abscess and left knee septic arthritis
   likely [**2-26**] IVDU.
   .
   #Sepsis - most likely [**2-26**] thumb abscess/septic arthritis with cultures
   of thumb and left knee with GPC's in pairs and clusters, blood cultures
   with group A strep.  She got 6L of fluid resuscitation in the ED and
   placement of CVL.  Lactate now back to normal.
   -check cvp
   -pulled back CVL 7 cm, conformed by CXR
   -cont vanc; switch cefepime to amp/gent for now
   -f/u with ID consult re:abx
   -gent levels
   -TTE in the am to eval for endocarditis
   -cortisol wnl
   -f/u daily surveillance cx
   .
   #L knee septic arthritis s/p L knee replacement - s/p drainage by ortho
   with joint fluid growing gpc's.  Likely seeded in the setting of IVDU
   and bacteremia.
   -f/u culture of left knee fluid
   -f/u ortho recs, likely will require surgical wash out
   -vanc/amp/gent
   -ID consult in the morning to assist
   .
   #Thumb abscess - s/p I&D in the ED with packing, likely [**2-26**] IVDU.
   -f/u xray hand read
   -hand surgery consult in the am
   -wound care with [**Hospital1 **] packing
   .
   #Transaminitis - AST acutely elevated most likely [**2-26**] sepsis/shock
   liver.  Other possibility would be viral hepatitis given reported h/o
   HCV.
   -trend LFT's
   -f/u hepatitis panel given h/o hcv and active IVDU
   -consider HIV screening
   -serum/urine tox showed only ops for opiates
   -limit tylenol to 2g per 24hrs
   .
   #severe persistent asthma - has been seen by [**Doctor First Name **] [**Doctor Last Name **] in the
   past in pulmonary clinic.
   -add bronchodilators
   - theophylline level low, hold theophylline for now, email Dr. [**Last Name (STitle) 1152**]
   about restarting it
   -continue singulair
   -continue advair, spiriva
   -cotninue xopenes nebs prn
   -encourage tobacco cessation
   -trend VBG's
   .
   #nongap metabolic acidosis - likely [**2-26**] fluid resuscitation of 6 L in
   the ED.
   -further fluid resuscitation with LR if needed.
   .
   #ARF - with creatinine elevation to 1.1 from baseline of 0.7 likely [**2-26**]
   sepsis/prerenal.
   -Creatinine back to baseline s/p fluid resuscitation.
   .
   #Heroin abuse - reports recent use of heroin after reportedly being
   clean for several years.
   -addiction consult
   -sw, psych, toxicology consult
   - CIWA protocol q1h, give 10mg Valium plus 10mg Haldol as needed
   - follow EKG with Haldol use for QT prolongation
   - consider LP in future if CNS infection is a possibility for AMS
   - may have to intubate for safety and to move forward with washout,
   studies, etc.
   .
   # Elev INR: could be [**2-26**] to emerging DIC, could be [**2-26**] to chronic
   hepatitis
   - f/u hep panel
   - trend coags
   - DIC panel neg for them most part
   - give IV Vit K
   ICU Care
   Nutrition: NPO p MN in case of surgical wash out in the am
   Glycemic Control:
   Lines:
   20 Gauge - [**2142-10-2**] 04:58 PM
   Multi Lumen - [**2142-10-2**] 04:59 PM (pulled back 7cm)
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: home dose omeprazole
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition: ICU

2142-10-03 09:44:00 Physician Attending Progress Note
Chief Complaint: left knee pain and swelling, fever, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   25 y.o. woman with history of bilateral knee replacements for
   osteonecrosis secondary to chronic steroid use presents with fever,
   left knee swelling, pain and fever. Transiently hypotensive in ED
   responsive to IV fluids.
   24 Hour Events:
 MULTI LUMEN - START [**2142-10-2**] 04:59 PM
 EKG - At [**2142-10-3**] 01:34 AM
   Central line pulled back; repeat CXR line in good placement, lucency at
   right heart border resolved
   Blood culture growing GPC in chains and pairs (2/4 bottles)
   Temp spike 103
   Tox screen positive for opiates
   Persistently tachycardic, received additional IVF resusitation
   Increasingly agitated overnight, visual hallucinations, dilusional
      - received dilaudid for pain every 4 hours
      - received ativan, methadone, haldol, valium
   Patient unable to provide history: poor historian in agitated state
   Allergies:
   Magnesium
   Anaphylaxis; Ra
   Latex
   Anaphylaxis;
   Salicylate
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2142-10-3**] 06:38 AM
   Vancomycin - [**2142-10-3**] 08:06 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2142-10-3**] 04:00 AM
   Diazepam (Valium) - [**2142-10-3**] 07:10 AM
   Hydromorphone (Dilaudid) - [**2142-10-3**] 08:03 AM
   Haloperidol (Haldol) - [**2142-10-3**] 08:25 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Psychiatric / Sleep: Agitated
   Pain: [**3-28**] Mild
   Flowsheet Data as of  [**2142-10-3**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 39.4
C (103
   HR: 159 (114 - 167) bpm
   BP: 122/70(65) {90/32(39) - 122/86(105)} mmHg
   RR: 25 (19 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 52.9 kg (admission): 50.9 kg
   Height: 60 Inch
   CVP: 12 (3 - 14)mmHg
   Total In:
                                                                  8,871 mL
                                                                  1,389 mL
   PO:
   TF:
   IVF:
                                                                  1,871 mL
                                                                  1,389 mL
   Blood products:
   Total out:
                                                                  4,910 mL
                                                                  2,080 mL
   Urine:
                                                                  1,910 mL
                                                                  2,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,961 mL
                                                                   -691 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.27/42/28/18/-8
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL, 1-2 mm pupils
   Head, Ears, Nose, Throat: Normocephalic, dry mouth
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   difuse expiratory)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, left knee swelling, warm and tender to touch
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Oriented (to): to place,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   160 K/uL
   91 mg/dL
   0.6 mg/dL
   18 mEq/L
   3.1 mEq/L
   9 mg/dL
   113 mEq/L
   138 mEq/L
   31.6 %
   7.8 K/uL
        [image002.jpg]
                             [**2142-10-2**]  05:52 PM
                             [**2142-10-2**]  11:27 PM
                             [**2142-10-3**]  12:45 AM
                             [**2142-10-3**]  03:50 AM
   WBC
   7.4
   11.1
   7.8
   Hct
   29.7
   31.4
   31.6
   Plt
   147
   176
   160
   Cr
   0.6
   0.6
   TCO2
   20
   Glucose
   105
   91
   Other labs: PT / PTT / INR:18.3/43.8/1.7, ALT / AST:24/84, Alk Phos / T
   Bili:74/0.3, Differential-Neuts:72.0 %, Band:3.0 %, Lymph:16.0 %,
   Mono:8.0 %, Eos:0.0 %, D-dimer:6875 ng/mL, Fibrinogen:382 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:2.2 g/dL, LDH:212 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.3 mg/dL, PO4:2.1 mg/dL
   Microbiology: Blood culture:  group A streptococci
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION:  Gropu A strep bacteremia.  No
   appreciable murmur on exam albeit difficult to appreciate fully given
   diffuse wheezing on exam this am.  Will get a TTE today.  Repeat blood
   cultures.  Tailoring antibiotics as per ID - consider adding
   gentamicin.
 LEFT KNEE PROSTHETIC JOINT INFECTION, LEFT THUMB ABSCESS:  Left thumb
   packed with wick.  Hand surgery to evaluate.  Ortho following for the
   knee to make recommendations regarding need for OR and washout.
 TRANSAMINITIS:  Trending down.  Hepatitis serologies pending.
 COAGULOPATHY:  Elevated INR in setting of underlying Hep C.  Also
   exacerbated by poor po intake, antibiotics.
 ASTHMA EXACERBATION WITHOUT STATUS:  More diffuse wheezing on exam.
   Since 4 am she has been noncooperative with bronchodilators.  Also had
   been aggressively fluid resusitated over the day yesterday, ~4L
   positive.  Autodiruesisng.  CXR does not show CHF.
 DELIRIUM / CONFUSION:  Secondary to withdrawal - ?from opiods,
   benzodiazipines.  Also getting street drugs, unclear what these might
   be cut with.  Plan to continue valium/haldol, follow QTC.  Addiction
   service to evaluate as well as psychiatry.  Will also discuss with
   toxicology service.
 ACTUE RENAL FAILURE:  Improved with volume resusitation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2142-10-2**] 04:58 PM
   Multi Lumen - [**2142-10-2**] 04:59 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 65 minutes
   Patient is critically ill
   ------ Protected Section ------
   Patient with persistent hypotension with worsening respiratory status
   (increased wheezing, decreased air movement) with fluid resuscitation.
   CXR concerning for volume overload.  Preliminary read on TTE shows
   possible vegetation on mitral valve albeit suboptimal study.  Repeat
   attempt for TTE this afternoon when patient less agitated again
   suboptimal as patient unable to cooperated with holding her breath.
   Also raised possibility of PFO.  Patient continues to be
   noncoopperative with MDIs/nebs.  Has required escalating doses of
   Haldol given intermittent agitation.  Medical resident in contact with
   patient
s parents to update on coarse thus far and requesting
   permission to intubate to facilitate further medical management
   including need for more definitive echo (TEE with bubble study) and
   ortho procedure.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2140**] [**Last Name (NamePattern1) 2141**], MD
   on:[**2142-10-3**] 15:29 ------

2142-10-04 11:49:00 Physician Attending Progress Note
Chief Complaint: septic arthritis
   respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   25 y.o. woman with asthma, bilateral knee replacements with septic
   arthritis and thumb laceration/abscess.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2142-10-3**] 10:32 AM
 TRANSTHORACIC ECHO - At [**2142-10-3**] 03:00 PM
   repeat for more images
 INVASIVE VENTILATION - START [**2142-10-3**] 04:11 PM
 ARTERIAL LINE - START [**2142-10-4**] 04:00 AM
 FEVER - 103.0
F - [**2142-10-3**] 08:00 AM
   Left hand splinted by hand surgery
   To OR for revision and washout for left knee septic arthritis, drain in
   place.
   Antibiotics changes to PCN and clinidamysin - all culutres growing same
   Group A strep
   Arterial line placed
                                    Patient unable to provide history: Intubated
   Allergies:
   Magnesium
   Anaphylaxis; Ra
   Latex
   Anaphylaxis;
   Salicylate
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2142-10-3**] 06:38 AM
   Vancomycin - [**2142-10-3**] 08:06 AM
   Gentamicin - [**2142-10-3**] 06:00 PM
   Clindamycin - [**2142-10-3**] 10:30 PM
   Penicillin G potassium - [**2142-10-4**] 08:25 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.18 mcg/Kg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2142-10-3**] 01:29 PM
   Midazolam (Versed) - [**2142-10-4**] 08:25 AM
   Fentanyl - [**2142-10-4**] 08:25 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2142-10-4**] 11:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98
   HR: 110 (88 - 133) bpm
   BP: 94/62(76) {77/47(64) - 111/78(91)} mmHg
   RR: 24 (20 - 24) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 52 kg (admission): 50.9 kg
   Height: 60 Inch
   CVP: 9 (9 - 14)mmHg
   Mixed Venous O2% Sat: 87 - 87
                                Total In:
                                                                  3,786 mL
                                                                    750 mL
   PO:
                                TF:
   IVF:
                                                                  3,731 mL
                                                                    600 mL
   Blood products:
   Total out:
                                                                  5,845 mL
                                                                  2,300 mL
   Urine:
                                                                  5,485 mL
                                                                  2,260 mL
   NG:
   Stool:
   Drains:
   40 mL
   Balance:
                                                                 -2,059 mL
                                                                 -1,550 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   SpO2: 99%
   ABG: 7.41/38/117/21/0
   Ve: 9.8 L/min
   PaO2 / FiO2: 390
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, left hand splinted, left knee dressing clean and dry
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   158 K/uL
   108 mg/dL
   0.4 mg/dL
   21 mEq/L
   3.9 mEq/L
   5 mg/dL
   115 mEq/L
   143 mEq/L
   27.9 %
   7.9 K/uL
        [image002.jpg]
                             [**2142-10-2**]  05:52 PM
                             [**2142-10-2**]  11:27 PM
                             [**2142-10-3**]  12:45 AM
                             [**2142-10-3**]  03:50 AM
                             [**2142-10-3**]  11:32 AM
                             [**2142-10-3**]  06:32 PM
                             [**2142-10-3**]  10:17 PM
                             [**2142-10-4**]  04:30 AM
                             [**2142-10-4**]  04:49 AM
   WBC
   7.4
   11.1
   7.8
   7.9
   Hct
   29.7
   31.4
   31.6
   27.9
   Plt
   147
   176
   160
   158
   Cr
   0.6
   0.6
   0.4
   TCO2
   20
   20
   23
   23
   25
   Glucose
   105
   91
   108
   Other labs: PT / PTT / INR:18.3/43.8/1.7, ALT / AST:21/51, Alk Phos / T
   Bili:107/0.4, Differential-Neuts:72.0 %, Band:3.0 %, Lymph:16.0 %,
   Mono:8.0 %, Eos:0.0 %, D-dimer:6875 ng/mL, Fibrinogen:382 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.2 g/dL, LDH:334 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 ASTHMA:  Lung exam much improved, no wheezing after autodiuresing
   overnight. Continue bronchodilators.  Sedated and intubated in
   anticipation of TEE and MRI later today will  not plan to wean this
   am.
 SEPSIS WITHOUT ORGAN DYSFUNCTION:  On norepinephrine albeit will try
   to wean that off, fluid challenge if needed.  No new culutre data.
 SEPTIC ARTHRITIS WITH PROSTHETIC JOINT:  On high dose PCN and
   clindamycin.  Status post surgical washout, drain in place.  Dressing
   clean and dry.
 THUMB ABSCESS:  On abx as above. Hand surgery following. Splint in
   place. Dressing changes every day planned.
 ENDOCARDITIS:  Intiial read suggested possible vegetation not seen on
   repeat TTE. Mild MR now seen. ?PFO raised. Will have TTE while remains
   intubated today with bubble study.
 OPIATE WITHDRAWAL:  Now sedated with fentanyl and versed, getting
   haldol.
 HEPATITIS C:  Check viral load.  Consult liver service.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2142-10-2**] 04:58 PM
   Multi Lumen - [**2142-10-2**] 04:59 PM
   Arterial Line - [**2142-10-4**] 04:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2142-10-05 12:26:00 Physician Attending Progress Note
Chief Complaint: septic arthritis
   respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2142-10-4**] 08:05 AM
   ekg done to eval qtc in terval
   Cyanosis resolved
   On levophed 0.1
   Drain removed from left knee per ortho
   TEE - no vegetations
   Allergies:
   Magnesium
   Anaphylaxis; Ra
   Latex
   Anaphylaxis;
   Salicylate
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2142-10-3**] 06:38 AM
   Vancomycin - [**2142-10-3**] 08:06 AM
   Gentamicin - [**2142-10-3**] 06:00 PM
   Clindamycin - [**2142-10-4**] 10:02 PM
   Penicillin G potassium - [**2142-10-5**] 08:03 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2142-10-4**] 03:30 PM
   Midazolam (Versed) - [**2142-10-4**] 03:30 PM
   Heparin Sodium (Prophylaxis) - [**2142-10-4**] 08:03 PM
   Pantoprazole (Protonix) - [**2142-10-4**] 10:13 PM
   Haloperidol (Haldol) - [**2142-10-4**] 10:13 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2142-10-5**] 12:26 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (98.9
   HR: 95 (91 - 119) bpm
   BP: 97/68(82) {95/43(53) - 124/69(94)} mmHg
   RR: 22 (22 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 50.2 kg (admission): 50.9 kg
   Height: 60 Inch
   CVP: 5 (4 - 360)mmHg
   Total In:
                                                                  1,577 mL
                                                                    975 mL
   PO:
   TF:
   IVF:
                                                                  1,367 mL
                                                                    975 mL
   Blood products:
   Total out:
                                                                  3,420 mL
                                                                  1,305 mL
   Urine:
                                                                  3,380 mL
                                                                  1,275 mL
   NG:
   Stool:
   Drains:
                                                                     40 mL
                                                                     30 mL
   Balance:
                                                                 -1,843 mL
                                                                   -330 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 15 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 100%
   ABG: 7.42/40/492/24/1
   Ve: 9.1 L/min
   PaO2 / FiO2: 1,230
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, left knee dressing clean and dry, drain removed
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   203 K/uL
   108 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.8 mEq/L
   4 mg/dL
   107 mEq/L
   141 mEq/L
   26.9 %
   5.8 K/uL
        [image002.jpg]
                             [**2142-10-4**]  04:30 AM
                             [**2142-10-4**]  04:49 AM
                             [**2142-10-4**]  03:55 PM
                             [**2142-10-4**]  04:59 PM
                             [**2142-10-4**]  06:34 PM
                             [**2142-10-4**]  08:46 PM
                             [**2142-10-4**]  11:47 PM
                             [**2142-10-5**]  12:03 AM
                             [**2142-10-5**]  05:00 AM
                             [**2142-10-5**]  05:25 AM
   WBC
   7.9
   5.0
   5.8
   Hct
   27.9
   24.9
   25.4
   26.9
   Plt
   158
   191
   203
   Cr
   0.4
   0.5
   TCO2
   25
   25
   27
   28
   27
   27
   27
   Glucose
   108
   108
   Other labs: PT / PTT / INR:13.8/40.1/1.2, ALT / AST:23/38, Alk Phos / T
   Bili:145/0.5, Differential-Neuts:72.0 %, Band:3.0 %, Lymph:16.0 %,
   Mono:8.0 %, Eos:0.0 %, D-dimer:6875 ng/mL, Fibrinogen:382 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:266 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.7 mg/dL
   Imaging: CXR:  ETT low, line in good position, no new infiltrates
   Microbiology: Repeat blood culutres NGTD
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]):  Received fentanyl for
   dressing change of knee this morning.  A bit more sedated.  Will wean
   sedation, wean to PSV.  Lungs sound clear on exam.  Stable for
   extubation later today once more awake.
 ASTHMA:  No wheezing on exam. Continue current inhalers.
 ANEMIA:  Stable hct, no evidnece of hemolysis on labs.
 DELIRIUM / CONFUSION: Haldol as per psychiatry.  Will need dose prior
   to anticipated extubation later today.
 SEPSIS WITHOUT ORGAN DYSFUNCTION:  Still requiring low dose levo.
   Trying to wean with goal for MAP 55.
 METHEMAGLOBINEMIA:  In setting of receiving Hurricane spray for TEE
   yesterday - resolved after single dose 1 mg/kg methylene blue.
 SEPTIC ARTHRITIS/PROSTHETIC LEFT KNEE:  Drain removed, dressing
   changed per ortho.  Continues PCN and clinda.  Suspicion for toxic
   shock syndrome is low. Will discuss stopping clinda  with ID.
   Surveillance cultures negative to date.  TEE shows no evidence of
   vegetation of PFO.
 THUMB LACERATION/ABSCESS:  Need to contact hand service regarding
   frequency of dressing changes.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2142-10-2**] 04:58 PM
   Multi Lumen - [**2142-10-2**] 04:59 PM
   Arterial Line - [**2142-10-4**] 04:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2142-10-06 10:34:00 Physician Attending Progress Note
Chief Complaint: Septic Arthritis
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2142-10-5**] 04:40 PM
 ARTERIAL LINE - STOP [**2142-10-5**] 06:45 PM
   -Pressors weaned to off
   -Extubation completed without event
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Magnesium
   Anaphylaxis; Ra
   Latex
   Anaphylaxis;
   Salicylate
   Unknown;
   Benzocaine
   Methemoglobinem
   Last dose of Antibiotics:
   Gentamicin - [**2142-10-3**] 06:00 PM
   Clindamycin - [**2142-10-6**] 05:08 AM
   Penicillin G potassium - [**2142-10-6**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2142-10-5**] 08:27 PM
   Haloperidol (Haldol) - [**2142-10-6**] 01:18 AM
   Heparin Sodium (Prophylaxis) - [**2142-10-6**] 01:19 AM
   Hydromorphone (Dilaudid) - [**2142-10-6**] 04:36 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Respiratory: Cough
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2142-10-6**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.2
   HR: 107 (93 - 121) bpm
   BP: 94/57(67) {84/47(56) - 100/70(78)} mmHg
   RR: 23 (18 - 24) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 50.2 kg (admission): 50.9 kg
   Height: 60 Inch
   CVP: 0 (0 - 6)mmHg
   Total In:
                                                                  1,560 mL
                                                                  1,092 mL
   PO:
                                                                    640 mL
   TF:
   IVF:
                                                                  1,560 mL
                                                                    452 mL
   Blood products:
   Total out:
                                                                  2,805 mL
                                                                  1,660 mL
   Urine:
                                                                  2,775 mL
                                                                  1,660 mL
   NG:
   Stool:
   Drains:
                                                                     30 mL
   Balance:
                                                                 -1,245 mL
                                                                   -568 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 27 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.43/34/67/23/0
   Ve: 9.9 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
Pt is alert and cooperative
   but with persisent confusion.
   Labs / Radiology
   7.7 g/dL
   262 K/uL
   83 mg/dL
   0.3 mg/dL
   23 mEq/L
   3.4 mEq/L
   4 mg/dL
   106 mEq/L
   135 mEq/L
   23.7 %
   4.8 K/uL
        [image002.jpg]
                             [**2142-10-4**]  03:55 PM
                             [**2142-10-4**]  04:59 PM
                             [**2142-10-4**]  06:34 PM
                             [**2142-10-4**]  08:46 PM
                             [**2142-10-4**]  11:47 PM
                             [**2142-10-5**]  12:03 AM
                             [**2142-10-5**]  05:00 AM
                             [**2142-10-5**]  05:25 AM
                             [**2142-10-5**]  05:40 PM
                             [**2142-10-6**]  04:05 AM
   WBC
   5.0
   5.8
   4.8
   Hct
   24.9
   25.4
   26.9
   23.7
   Plt
   191
   203
   262
   Cr
   0.5
   0.3
   TCO2
   25
   27
   28
   27
   27
   27
   23
   Glucose
   108
   83
   Other labs: PT / PTT / INR:13.4/40.2/1.1, ALT / AST:23/38, Alk Phos / T
   Bili:145/0.5, Differential-Neuts:72.0 %, Band:3.0 %, Lymph:16.0 %,
   Mono:8.0 %, Eos:0.0 %, D-dimer:6875 ng/mL, Fibrinogen:382 mg/dL, Lactic
   Acid:0.5 mmol/L, Albumin:2.2 g/dL, LDH:266 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR-CVL in good position, bilateral peri-hilar infiltrates
   seen, no focal cavity or consolidation.
   Microbiology: [**10-2**]--Group A Strep
   Thumb Abscess and Knee Collection--Group A Strep
   [**10-3**] and following cultures negative
   Assessment and Plan
   25 yo female with h/o Asthma and IVDA now admitted with septic
   arthritis with Group A Strep and with persistent bactermia patient had
   TEE without endocarditis with procedure complicated by MetHgb.  She now
   has had successful extubation and discontinuation of pressors.
   1)RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])-Mental status has improved,
   procedures completed, exutabated successfully with mild persistent
   bilateral infiltrates
   -O2 wean to off
   -OOB to chair and ambulate if possible
   -Follow CXR
   2)ASTHMA-
   Advair/Albuterol/Atrovent/Flovent to be refined
   2)DELIRIUM / CONFUSION-Improved mental status with persistent confusion
   noted
   -Wil follow exam
   -Monitor for withdrawl but patient does deny EtOH
   3)SEPSIS WITHOUT ORGAN DYSFUNCTION-
   -PCN/Clinda for possible toxic shock syndrome and PCN for group A strep
   Septic Arthritis-
   -Wash out completed of knee and I+D completed of thumb lesion
   -ABX in place and will continue with PCN x 4 weeks with PICC line
   needed for administration
   ICU Care
   Nutrition: To PO diet today
   Glycemic Control:
   Lines:
   20 Gauge - [**2142-10-2**] 04:58 PM
   Multi Lumen - [**2142-10-2**] 04:59 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes